US08124624B2
Methyl 3-(piperidin-2-yl)propionate hydrochloride
Methyl 3-(pyridin-2-yl)acrylate (22.15 g, 136 mmol) was dissolved in THF (300 ml) and chloroform (10.9 ml), and PtO2 (3.08 g, 13.6 mmol, 0.1 eq.) was added under a nitrogen atmosphere. The solution was first rinsed with nitrogen for 10 min and was then stirred overnight under a H2 atmosphere (8 bar). After cooling, rinsing with nitrogen was first carried out again, the catalyst was removed by filtering over filtering earth and then rinsed with DCM, and the filtrate was concentrated to dryness in vacuo. The methyl 3-(piperidin-2-yl)propionate hydrochloride was used in the next stage without being purified further.

reactant | Methyl 3-(pyridin-2-yl)acrylate | 136 mmol, 22.15 g | N1=C(C=CC=C1)C=CC(=O)OC | C9H9NO2
reactant | chloroform | 10.9 ml | C(Cl)(Cl)Cl | CHCl3
solvent | THF | 300 ml | C1CCOC1 | C4H8O
catalyst | PtO2 | 13.6 mmol, 3.08 g, 0.1 eq. | O=[Pt]=O
product | Methyl 3-(piperidin-2-yl)propionate hydrochloride | Cl.N1C(CCCC1)CCC(=O)OC | InChI=1S/C9H17NO2.ClH/c1-12-9(11)6-5-8-4-2-3-7-10-8;/h8,10H,2-7H2,1H3;1H
